US07381728B2
Step 1: 5-Bromo-2-[(phenylmethyl)thio]pyridine
A solution of phenylmethanethiol (1 ml, 8 mmol) in N,N-dimethylformamide (15 ml) under an atmosphere of argon was treated with sodium hydride (352 mg, 8.8 mmol, 60% dispersion in oil). After stirring at room temperature for 15 minutes a solution of 5-bromo-2-chloropyridine (1.84 g, 9.6 mmol) in N,N-dimethylformamide (5 ml) was added. After 2 hours, water and ethyl acetate were added. The organic layer was separated and washed with water, brine and dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was then purified by chromatography on silica gel eluting with 5% ethyl acetate in pentane to give the title compound. MS (ES+) 280/282 [M+H]+.

reactant | phenylmethanethiol | 8 mmol, 1 ml | C1(=CC=CC=C1)CS | C7H8S
reactant | sodium hydride | 8.8 mmol, 352 mg | [H-].[Na+]
reactant | 5-bromo-2-chloropyridine | 9.6 mmol, 1.84 g | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-2-[(phenylmethyl)thio]pyridine | BrC=1C=CC(=NC1)SCC1=CC=CC=C1 | C12H10BrNS
